US09108960B2
5-[1-(4-Amino-2-fluorophenyl)-4-piperidyl]-3-ethyl-2,3-dihydro-1,3,4-oxadiazol-2-one (7 g, 0.30 g, 1 mmol) on reacting with 5-nitro2-furaldehyde in the presence of catalytic amount of CH3COOH (3 drops) in methanol at 0° C. for 10 h and the obtained solid is filtered, washed with water and re-crystallized in ethanol to obtain product 3-ethyl-5-[1-(2-fluoro-4-[(E)-1-(5-nitro-2-furyl)methylidene]aminophenyl)-4-piperidyl]-2,3-dihydro-1,3,4-oxadiazol-2-one (9 g, 373 mg, 87%).

reactant | 5-[1-(4-Amino-2-fluorophenyl)-4-piperidyl]-3-ethyl-2,3-dihydro-1,3,4-oxadiazol-2-one | 1 mmol, 7 g | NC1=CC(=C(C=C1)N1CCC(CC1)C1=NN(C(O1)=O)CC)F | C15H19FN4O2
reactant | 5-nitro2-furaldehyde | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
catalyst | CH3COOH | 3 drops | CC(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 3-ethyl-5-[1-(2-fluoro-4-[(E)-1-(5-nitro-2-furyl)methylidene]aminophenyl)-4-piperidyl]-2,3-dihydro-1,3,4-oxadiazol-2-one | 9 g, 87% | C(C)N1C(OC(=N1)C1CCN(CC1)C1=C(C=C(C=C1)/N=C/C=1OC(=CC1)[N+](=O)[O-])F)=O | C20H20FN5O5
